US04385143
Into a 300-ml four-necked flask, were charged 27.8 g of 6-methyl-2,4-di-t-butyl-3-hydroxyphenylacetic acid, 150 ml of toluene and 3 ml of concentrated sulfuric acid. The mixture was heated under reflux for about 5 hours under a nitrogen stream. After completion of the reaction, the reaction mixture was neutralized with an aqueous sodium carbonate solution, washed with water, then dehydrated and freed from the solvent under reduced pressure to obtain 21.5 g (97% yield) of pale yellow 2-methyl-4-t-butyl-5-hydroxyphenylacetic acid which was recrystallized from a chloroform-hexane mixture to yield white crystals melting at 132° to 134° C.

reactant | 6-methyl-2,4-di-t-butyl-3-hydroxyphenylacetic acid | 27.8 g | CC1=CC(=C(C(=C1CC(=O)O)C(C)(C)C)O)C(C)(C)C | C17H26O3
reactant | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-4-t-butyl-5-hydroxyphenylacetic acid | 21.5 g, 97% yield | CC1=C(C=C(C(=C1)C(C)(C)C)O)CC(=O)O | C13H18O3
